US07544685B2
3d, 2-((RS)-3-{2-[4-(1H-Indol-5-yl)-piperazin-1-yl]-ethyl}-7-methoxy-2,3-dihydro-1H-indol-1-yl)-2-oxo-acetamide oxalate
from 5-{4-[2-((RS)-7-methoxy-2,3-dihydro-1H-indol-3-yl)-ethyl]-piperazin-1-yl}-1H-indole and oxalamic acid.

reactant | 5-{4-[2-((RS)-7-methoxy-2,3-dihydro-1H-indol-3-yl)-ethyl]-piperazin-1-yl}-1H-indole | COC=1C=CC=C2C(CNC12)CCN1CCN(CC1)C=1C=C2C=CNC2=CC1 | C23H28N4O
reactant | oxalamic acid | C(C(=O)N)(=O)O | C2H3NO3
product | 2-((RS)-3-{2-[4-(1H-Indol-5-yl)-piperazin-1-yl]-ethyl}-7-methoxy-2,3-dihydro-1H-indol-1-yl)-2-oxo-acetamide oxalate | C(C(=O)O)(=O)O.N1C=CC2=CC(=CC=C12)N1CCN(CC1)CCC1CN(C2=C(C=CC=C12)OC)C(C(=O)N)=O | InChI=1S/C25H29N5O3.C2H2O4/c1-33-22-4-2-3-20-18(16-30(23(20)22)25(32)24(26)31)8-10-28-11-13-29(14-12-28)19-5-6-21-17(15-19)7-9-27-21;3-1(4)2(5)6/h2-7,9,15,18,27H,8,10-14,16H2,1H3,(H2,26,31);(H,3,4)(H,5,6)
